US04029816
To a freshly-prepared solution of 2-aminomethyl-4-(1,1-dimethylethyl)-6-iodophenol (1.95 g., 6.5 millimole) in 2-propanol (20 ml.) is added 6.5N isethionic acid (1 ml., 6.5 milliequivalents) at room temperature. Upon diluting the resulting solution with ether (100 ml.), a white solid precipitates and is collected to 2.4 g., m.p. 160°-163° C. (dec.). Crystallization (twice) of this solid from 2-propanol-ether (2:5; 70 ml.) affords 2-aminomethyl-4-(1,1-dimethylethyl)-6-iodophenol isethionate-hemihydrate as colorless crystals (1.93 g.), m.p. 166°-167.5° C.(dec.).

reactant | 2-aminomethyl-4-(1,1-dimethylethyl)-6-iodophenol | 6.5 millimole, 1.95 g | NCC1=C(C(=CC(=C1)C(C)(C)C)I)O | C11H16INO
reactant | isethionic acid | 6.5N, 1 ml, 6.5 milliequivalents | S(=O)(=O)(O)CCO | C2H6O4S
solvent | 2-propanol | 20 ml | CC(C)O | C3H8O
solvent | ether | 100 ml | CCOCC | C4H10O
product | 2-aminomethyl-4-(1,1-dimethylethyl)-6-iodophenol isethionate-hemihydrate | O.S(=O)(=O)(CCO)OC1=C(C=C(C=C1I)C(C)(C)C)CN.NCC1=C(C(=CC(=C1)C(C)(C)C)I)OS(=O)(=O)CCO | InChI=1S/2C13H20INO4S.H2O/c2*1-13(2,3)10-6-9(8-15)12(11(14)7-10)19-20(17,18)5-4-16;/h2*6-7,16H,4-5,8,15H2,1-3H3;1H2
